* C:\Users\karab\OneDrive\Documents\GitHub\EE463_Project_Onur_Halis_Halid\3854.asc
M§Q1 N001 N006 N008 N008 IPP200N25N3
L1 N008 N009 100µ Rser=5.8m
C1 N009 0 1m Rser=4.5m
C2 N002 0 4.7µ
C3 N003 0 .002µ
V1 IN 0 24
D1 IN N004 RF01VM2S
M§Q2 N008 N011 0 0 IPP200N25N3
C5 N005 0 2200p Rser=15K Cpar=100p
XU1 N007 N005 N003 N004 N006 N008 0 N011 N002 IN 0 0 LTC3854
C6 N004 N008 1µ
V2 N001 0 250
E§ACS70331EESATR-2P5B3 N007 0 N013 0 4
R3 N013 0 0.1
R1 N010 N012 0.1
R4 0 N007 1k5
R5 NC_01 N009 50k
C4 N012 N013 8000m IC=24
D2 N009 N010 RB050LAM-40
.model D D
.lib C:\Users\karab\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\karab\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 100m 0 startup
.options gmin=1e-10
.options abstol=1e-10
.options reltol=0.005
.options cshunt=1e-15
.lib LTC3854.sub
.backanno
.end
